US08975400B2
tert-butyl 7-((3-cyano-4-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from 5-(hydroxymethyl)-2-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzonitrile and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | 5-(hydroxymethyl)-2-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzonitrile | OCC=1C=CC(=C(C#N)C1)OC=1C=NC=C(C1)C(F)(F)F | C14H9F3N2O2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((3-cyano-4-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(#N)C=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC=1C=NC=C(C1)C(F)(F)F | C25H22F3N5O5
